US07812022B2
2,6-Difluoro-N-[3-(3-{2-[(2-methyl-1,3-benzothiazol-5-yl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]benzamide
A mixture of N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide (which may be prepared according to a procedure similar to Example 27, Step C) and 2-methyl-1,3-benzothiazol-5-amine are heated in isopropanol with catalytic conc. HCl at approximately 85° C. to afford the product. ES-LCMS m/z 590 (M+H).

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H14ClF2N5O
reactant | 2-methyl-1,3-benzothiazol-5-amine | CC=1SC2=C(N1)C=C(C=C2)N | C8H8N2S
reactant | HCl | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2,6-Difluoro-N-[3-(3-{2-[(2-methyl-1,3-benzothiazol-5-yl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]benzamide | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC=2C=CC3=C(N=C(S3)C)C2)C(=CC=C1)F | C32H21F2N7OS
